US04486434
2-(2-Cyanoethyl)malonic acid diethyl ester (148.3 g) was reacted with sodium hydride (15.3 g) in tetrahydrofuran at 20° C. 2-Chloro-3-methyl-5-nitropyridine (100 g) was added and the internal temperature was raised to 100° C. (some tetrahydrofuran was distilled off) over 14 hrs. The reaction mixture was partitioned between water and chloroform, the chloroform extract was dried, treated with charcoal and filtered through a silica bed and then evaporated to dryness. Crystallisation of the residue from ethanol gave 4-(3-methyl-5-nitropyrid-2-yl)-4,4-bis(carbethoxy)-butyronitrile (99 g) m.p. 64°-65.5° C.

reactant | 2-(2-Cyanoethyl)malonic acid diethyl ester | 148.3 g | C(C)OC(C(C(=O)OCC)CCC#N)=O | C10H15NO4
reactant | sodium hydride | 15.3 g | [H-].[Na+]
reactant | 2-Chloro-3-methyl-5-nitropyridine | 100 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(3-methyl-5-nitropyrid-2-yl)-4,4-bis(carbethoxy)-butyronitrile | 99 g | CC=1C(=NC=C(C1)[N+](=O)[O-])C(CCC#N)(C(=O)OCC)C(=O)OCC | C16H19N3O6
